US08710043B2
Intermediate 115: 6-Oxo-5-(trifluoromethyl)-1,6-dihydropyridine-3-carboxylic Acid
To a solution of 5-bromo-3-(trifluoromethyl)pyridin-2-ol (0.960 g, 3.97 mmol, Aldrich) in THF (20 mL) at −78° C. under N2 was slowly added n-butyllithium solution, 1.6 M in hexane (5.45 mL, 8.73 mmol). After addition, the mixture was stirred at −78° C. for 30 min. Then, dry ice was added and the mixture was stirred at −78° C. for 30 min and at rt for 30 min. Water (20 mL) was then added slowly, and the mixture was stirred at rt for 15 min. The aqueous phase was collected and acidified (pH=5-6) using concentrated HCl. The mixture was extracted with EtOAc (3×15 mL). The combined organic layers were dried (MgSO4), concentrated, and dried in vacuo to give the title compound as a yellow solid. MS (ESI, positive ion) m/z: 208 (M+H).

reactant | 5-bromo-3-(trifluoromethyl)pyridin-2-ol | 3.97 mmol, 0.960 g | BrC=1C=C(C(=NC1)O)C(F)(F)F | C6H3BrF3NO
reactant | n-butyllithium | C(CCC)[Li]
reactant | hexane | 8.73 mmol, 5.45 mL | CCCCCC | C6H14
reactant | dry ice | C(=O)=O | CO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | Water | 20 mL | O | H2O
product | 6-Oxo-5-(trifluoromethyl)-1,6-dihydropyridine-3-carboxylic Acid | O=C1C(=CC(=CN1)C(=O)O)C(F)(F)F | C7H4F3NO3
